US06890959B2
25 g 3-[3-(tert-butyl-diphenyl-silanyloxy)-phenyl]-4-dimethylaminomethyl-cyclohex-2-enone were dissolved in 110 ml absolute methanol. 2,8 g palladium-on-charcoal (10%) were added as a catalyst, while stirring and passing dry nitrogen over. Hydrogenation was then carried out for five hours under a pressure of 0.2 bar and at a temperature of 20° C. After filtration the solvent was evaporated off in vacuo and the residue was dissolved in 60 ml tetrahydrofuran. 15 ml tetrabutylammonium fluoride were then added at room temperature. When the reaction had ended the mixture was quenched with water and then extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution. The organic phase was then dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel with ethyl acetate/methanol/diisopropyl ether=4/1/5 as the eluting agent. 5 g rac-cis-[4-dimethylaminomethyl-3-(3-hydroxy-phenyl)-cyclohexanone in the form of an oil were obtained as the first product fraction. To prepare the hydrochloride, the base was dissolved in acetone, and an equimolar amount of water and trimethylchlorosilane was added. The hydrochloride which had precipitated out was filtered off with suction and dried in vacuo. 4.8 g (32.9% of theory) rac-cis-[4-dimethylaminomethyl-3-(3-hydroxy-phenyl)-cyclohexanone hydrochloride were obtained in this way. The second product fraction gave 3.5 g rac-trans-[4-dimethylaminomethyl-3-(3-hydroxy-phenyl)-cyclohexanone, likewise as an oil. To prepare the hydrochloride, the base was dissolved in acetone, and an equimolar amount of water and trimethylchlorosilane was added. The hydrochloride which had precipitated out was filtered off with suction and dried in vacuo. 3.2 g (21.9% of theory) rac-trans-[4-dimethylaminomethyl-3-(3-hydroxy-phenyl)-cyclohexanone hydrochloride were obtained in this way.

reactant | 3-[3-(tert-butyl-diphenyl-silanyloxy)-phenyl]-4-dimethylaminomethyl-cyclohex-2-enone | 25 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C1=CC(CCC1CN(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H37NO2Si
solvent | methanol | 110 ml | CO | CH4O
catalyst | palladium-on-charcoal | 2,8 g | [Pd] | Pd
product | 4-dimethylaminomethyl-3-(3-hydroxy-phenyl)-cyclohexanone | 5 g | CN(C)CC1C(CC(CC1)=O)C1=CC(=CC=C1)O | C15H21NO2
